US04035188
Ii. n-ethyl-N-[β-ethoxy[β-ethoxy)]ethyl-3-methylaniline
A mixture of 67.5 g(0.5 mole) of N-ethyl-3-methyl-aniline, 98.5 g (0.5 mole) of [β-(β-ethoxy)-ethoxy]ethyl bromide, 44.1 g (0.55 mole) of sodium bicarbonate, 5.50 ml of ethanol and 145 ml of water was refluxed for 80 hours. Ethanol was removed by distillation and the oil layer was extracted with ether. The extract was dried with potassium carbonate and then ether was removed, followed by distillation of the residue oil under reduced pressure.

reactant | N-ethyl-3-methyl-aniline | 0.5 mole, 67.5 g | C(C)NC1=CC(=CC=C1)C | C9H13N
reactant | [β-(β-ethoxy)-ethoxy]ethyl bromide | 0.5 mole, 98.5 g | CCOCCOCCBr | C6H13BrO2
reactant | sodium bicarbonate | 0.55 mole, 44.1 g | C([O-])(O)=O.[Na+]
reactant | ethanol | 5.50 ml | C(C)O | C2H6O
solvent | water | 145 ml | O | H2O
product | n-ethyl-N-[β-ethoxy[β-ethoxy)]ethyl-3-methylaniline | C(C)N(C1=CC(=CC=C1)C)CCOC(C)OCC | C15H25NO2
